US07160888B2
A third intermediate compound, 2-Methoxy-5-piperazin-1-yl-quinoline, was produced as follows: To an oven-dried flask, under nitrogen, was added Pd(OAc)2 (0.03 g, 0.13 mmol) and 2-(dicyclohexylphosphino)biphenyl (0.045 g, 0.13 mmol). The flask was evacuated and refilled with nitrogen. The following materials were added in the following order: degassed toluene (10 mL), 5-bromo-2-methoxy-quinoline (0.76 g, 3.23 mmol), 1-Boc-piperazine (0.72 g, 3.87 mmol), and NaOtBu (0.43 g, 4.52 mmol). The mixture was stirred at 80° C. for 1.5 h. After cooling to room temperature, the mixture was diluted with ethyl acetate and filtered through celite. The filtrate was concentrated in vaccuo and purified by chromatography on silica gel (10% EtOAc/Hexane) to give 4-(2-methoxy-quinolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester as a yellowish solid (0.73 g, 66%). 1H NMR (400 MHz, CDCl3) δ: 8.35 (d, 1H), 7.60 (m, 2H), 7.00 (d, 1H), 6.90 (d, 1H), 4.05 (s, 3H), 3.75 (m, 4H), 3.00 (m, 4H), 1.50 (s, 9H).

reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | 5-bromo-2-methoxy-quinoline | 3.23 mmol, 0.76 g | BrC1=C2C=CC(=NC2=CC=C1)OC | C10H8BrNO
reactant | 1-Boc-piperazine | 3.87 mmol, 0.72 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaOtBu | 4.52 mmol, 0.43 g | CC(C)(C)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 0.13 mmol, 0.03 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 2-(dicyclohexylphosphino)biphenyl | 0.13 mmol, 0.045 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | 4-(2-methoxy-quinolin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.73 g, 66% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)OC | C19H25N3O3
